US05397798
A. 2-Amino-N-[3-(1-trityl-1H-imidazol-2-yl)-propyl]benzamide
The subtitled compound was prepared substantially in accordance with the method detailed in Example 39A using 16.5 g (0.0449 mol) of 2-(3-aminopropyl)-1-tritylimidazole and 7.5 g (O.046 mol) of isatoic anhydride, with the exception that after reducing the organic layer to dryness under reduced pressure to provide a solid the solid was filtered through silica gel using 3000 ml of methylene chloride followed by 4000 ml of a 2% methanol in methylene chloride solution. The resulting filtrate was reduced to dryness under reduced pressure to provide a foamy oil. This oil was dissolved in 1000 ml of boiling ethanol. The resulting solution was then reduced under reduced pressure to approximately 200 ml in volume and then cooled to 0° C. while solids precipitated. These solids were recovered by filtration and washed with ethanol to provide 18.6 g of the desired subtitled intermediate (m.p. 198.5°-207° C.).

reactant | 2-(3-aminopropyl)-1-tritylimidazole | 0.0449 mol, 16.5 g | NCCCC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25N3
reactant | isatoic anhydride | 7.5 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2-Amino-N-[3-(1-trityl-1H-imidazol-2-yl)-propyl]benzamide | NC1=C(C(=O)NCCCC=2N(C=CN2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C32H30N4O
